Name:  ___         Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___
 
Chief Complaint:
gait changes started yesterday  
 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ w/ ___ on Xarelto, NIDDM, ETOH/drug abuse p/w 
bilateral ___ weakness, difficulty writing, and bilateral hand 
tingling for < 24h. Symptoms started last night ~10pm, noticed 
that he had trouble coordinating and writing his name, trouble 
operating a vehicle (pulling out of a parking spot), and was 
"sliding" his feet around. Patient denies similar symptoms in 
past. He also had some concern for slurred speech. He has more 
recent history of left knee pain that he's got corticosteroid 
injection for, but nothing similar to current weakness 
bilaterally. Patient denies any back pain. He has no recent 
fevers, infections (URI/infectious diarrhea). Says metformin 
gives him diarrhea at baseline. Patient denies recent 
trauma/fall, no headache, no changes in vision, and no 
difficulty breathing. Patient reports using cocaine (sniff) on 
___ and last ETOH use was the night prior to admission. 
Patient is on anticoagulation, however he reports inconsistent 
use. Patient denies any recent stool/urinary incontinence.  

Exam: notable for decreased strength in ___ bilaterally 
(difficulty in straight leg exam against gravity) and poor upper 
extremity rapid alternating motion.  

Neurology was consulted but reassured by his exam. They 
recommended to f/u his labs to rule out infectious and other 
acute pathologies and have patient follow up with neuro UC.  

Also complaining of some dyspnea.  
Patient's labs notable for BNP 1191  
INR 1.6  
P 5.3  
BMP: ___  
Trop <0.01  
lactate 1.9  

Urine cocaine: Positive  

Imaging showed:  
CT head without acute intracranial abnormality.  
CXR  IMPRESSION: Mild cardiomegaly unchanged. No signs of 
congestion or edema.  

ECG showed atrial flutter with variable conduction mostly 3:1.  

REVIEW OF SYSTEMS:  
(+) Per HPI  
(-) 10 point ROS reviewed and negative unless stated above in 
HPI  
 
Past Medical History:
HTN  
Atrial flutter s/p ablation in ___  
Chronic systolic and diastolic CHF (hospitalized ___ for 
dyspnea and lower extremity edema) 
DMII  
Obesity, morbid  
Adjustment disorder with mixed emotional features 
 
Social History:
___
Family History:
Brother Alive(4) ___ - Type II  
Father ___  
Mother Alive Diabetes - Type II; Hypertension  
Sister Alive(2)  
 
 
Physical Exam:
ADMISSION EXAM:
=================
VITAL SIGNS: T 97.3, BP 81/51, P 66, RR 14, O2sat 96% on RA  
GENERAL: Mild increased WOB, otherwise NAD, ___ appearing  

HEENT: PERRL, OP clear without lesions  
NECK: thick, unable to appreciate JVP  
CARDIAC: Distant, irregular, no MRG  
LUNGS: Distant, bibasilar crackles to ___ up lung fields, no 
wheezing  
ABDOMEN: obese, NT, ND, no rebound or guarding  
EXTREMITIES: WWP, no peripheral edema, no cyanosis  
NEUROLOGIC: AOx3, ___ intact, ___ motor strength in all 
extremities; ambulates to restroom without issue  
SKIN: flushed, otherwise no rashes  

DISCHARGE EXAM:
==================
VS: T ___, BP ___, RR 18, O2sat ___ on RA
GENERAL: well appearing, obese, otherwise NAD, ___ 
appearing  
HEENT: PERRL, EOMI
NECK: thick, unable to appreciate JVP  
CARDIAC: Distant, irregular, no MRG  
LUNGS: Distant, no crackles or wheezing  
ABDOMEN: obese, NT, ND, no rebound or guarding  
EXTREMITIES: no peripheral edema, no cyanosis  
NEUROLOGIC: AOx3, ___ intact, ___ motor strength in all 
extremities 
 
Pertinent Results:
ADMISSION LABS:
====================
___ 05:44PM BLOOD ___ 
___ Plt ___
___ 05:44PM BLOOD ___ 
___ Im ___ 
___
___ 05:44PM BLOOD ___ ___
___ 05:44PM BLOOD ___ 
___
___ 05:44PM BLOOD ___
___ 05:44PM BLOOD ___
___ 05:44PM BLOOD cTropnT-<0.01
___ 05:44PM BLOOD ___
___ 05:44PM BLOOD ___
___ 05:44PM BLOOD ___ 
___
___ 06:10PM BLOOD ___
___ 08:44PM URINE ___ 
___

DISCHARGE LABS:
=======================
___ 10:53AM BLOOD ___ 
___ Plt ___
___ 10:53AM BLOOD ___ ___
___ 03:40PM BLOOD ___ 
___
___ 12:27AM URINE ___ Sp ___
___ 12:27AM URINE ___ 
___
___ 12:27AM URINE RBC-<1 ___ 
Epi-<1
___ 12:27AM URINE ___

URINE CULTURE (Preliminary): ESCHERICHIA COLI.    >100,000 
CFU/mL. 

CT Head (___):
IMPRESSION:  No acute intracranial abnormality. 

CXR (___): 
IMPRESSION: Mild cardiomegaly unchanged.  No signs of congestion 
or edema. 

 
Brief Hospital Course:
___ yoM with HTN, HLD, DMII, systolic and diastolic HF, atrial 
flutter and substance use presenting to the ED for ___ weakness, 
difficulty writing, and bilateral hand tingling for < 24h and 
dyspnea. 

#Weakness/dysarthria- Likely secondary to patient's substance 
use (UDS + cocaine) and underlying urinary tract infection, as 
below. Patient's neurological exam was wnl and CT head negative 
for intracranial abnormalities. Neurology was consulted in the 
ED and were reassured with his neurological exam. Dysarthria and 
weakness had resolved by the time of initial evaluation on the 
floor. No focal neurological deficits were observed and patient 
was instructed to ___ with PCP/neurology after discharge. 

#Acute on chronic systolic and diastolic heart failure- Patient 
was also found to have evidence of b/l crackles and dyspnea and 
was given 1x dose of 80 mg IV Lasix, with improvement in his 
symptoms. He appeared euvolemic after this so he was 
transitioned back to his home dose of diuretics.

# UTI: Patient's UA was positive for +nitrites, trace leuk, and 
few bacteria with mild leukocytosis noted on exam. Urine culture 
revealed prelim E. coli > 100,000 CFU. Patient was given 1gm CTX 
(___) that was transitioned to PO ciprofloxacin for a 7 day 
course total (last day ___.

#Acute renal failure- Patient with Cr 1.6 from baseline of 
___ based on Atrius records. Repeat Cr after IV 80 Lasix was 
1.6.

#Acute on chronic systolic and diastolic heart failure- Pt 
presented with crackles on exam and dyspnea which resolved with 
80 mg IV Lasix. The following morning, patient had no e/o 
crackles, elevated JVP or peripheral edema. Patient was resumed 
on his home medications at discharge. 

#Aflutter- Variable ___ conduction per EKG. Pt's rates were 
controlled during this hospitalization. He was continued on 
metoprolol succinate and rivoraxaban. Counseling regarding 
taking rivoraxaban daily was provided and should be 
___ in the outpatient setting. 

TRANSITIONAL ISSUES:
=======================
- New medications: ciprofloxacin (last day ___
- Please recheck CMP at PCP appointment
- ___ reiterate importance of taking rivoraxaban daily after 
discharge
- Please ___ on patient's weakness after discharge 
- Please continue to provide counseling regarding reducing 
substance use
- Pt presented with dyspnea that improved with IV Lasix 80 mg 
x1, please consider uptitration of home diuretics as needed

 
Medications on Admission:
1. ___ 10 (potassium chloride) 30 mEq oral DAILY 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB 
3. amLODIPine 10 mg PO DAILY 
4. irbesartan 300 mg oral DAILY 
5. Metoprolol Succinate XL 100 mg PO DAILY 
6. Rivaroxaban 20 mg PO DAILY 
7. Furosemide 80 mg PO DAILY 
8. Spironolactone 50 mg PO DAILY 
9. Victoza ___ (liraglutide) 0.6 mg/0.1 mL (18 mg/3 mL) 
subcutaneous DAILY 
10. MetFORMIN XR (Glucophage XR) 1000 mg PO DAILY 
11. Sildenafil 100 mg PO PRN sex 
___. Fluticasone Propionate NASAL 1 SPRY NU DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 250 mg PO Q12H Duration: 5 Days 
First dose to be taken ___. 
RX *ciprofloxacin HCl 250 mg 1 tablet(s) by mouth every 12 hours 
Disp #*10 Tablet Refills:*0 
2.  Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB  
3.  amLODIPine 10 mg PO DAILY  
4.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
5.  Furosemide 80 mg PO DAILY  
6.  irbesartan 300 mg oral DAILY  
7.  MetFORMIN XR (Glucophage XR) 1000 mg PO DAILY 
Do Not Crush  
8.  Metoprolol Succinate XL 100 mg PO DAILY  
9.  Rivaroxaban 20 mg PO DAILY  
10.  Sildenafil 100 mg PO PRN sex  
___.  Spironolactone 50 mg PO DAILY  
12.  Victoza ___ (liraglutide) 0.6 mg/0.1 mL (18 mg/3 mL) 
subcutaneous DAILY  
13. HELD- ___ 10 (potassium chloride) 30 mEq oral DAILY  
This medication was held. Do not restart ___ 10 until your 
___ doctors restart it.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Acute cystitis
Acute renal failure
Acute on chronic systolic and diastolic heart failure

Secondary:
Atrial flutter
Type 2 DM
Asthma
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to the hospital because you were having some 
weakness and difficulty with speaking and writing. We did not 
find any abnormalities on exam or on your brain imaging. We did 
find that you had evidence of a urine infection so we started 
you on antibiotics that you should continue until ___. 

Please ___ with your PCP after discharge. 

It was a pleasure taking care of you,
Your ___ Team
 
Followup Instructions:
___